US08053438B2
A mixture of N-(4-(3-chloropyrazin-2-yloxy)-2-fluorophenyl)benzo[d]thiazol-2-amine (2098 mg, 5.63 mmol), 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)cyclohex-2-enone (1000 mg, 4.50 mmol), dichlorobis(triphenylphosphine)palladium(ii) (316 mg, 0.450 mmol), and sodium carbonate (1432 mg, 13.51 mmol) in DME/H2O/EtOH (7:3:2, 36 ml) was heated to 140° C. for 3 h. Water (100 ml) was added and the reaction mixture was extracted with EtAOc (3×100 ml). The combined organic layers were washed with brine and dried over sodium sulfate. Filtration and concentration under reduced pressure afforded 3-(3-(4-(benzo[d]thiazol-2-ylamino)-3-fluorophenoxy)pyrazin-2-yl)cyclohex-2-enone. MS (ESI, pos. ion) m/z: 433.0 (M+1). IC50 (uM) +++++.

reactant | N-(4-(3-chloropyrazin-2-yloxy)-2-fluorophenyl)benzo[d]thiazol-2-amine | 5.63 mmol, 2098 mg | ClC=1C(=NC=CN1)OC1=CC(=C(C=C1)NC=1SC2=C(N1)C=CC=C2)F | C17H10ClFN4OS
reactant | 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)cyclohex-2-enone | 4.50 mmol, 1000 mg | CC1(OB(OC1(C)C)C1=CC(CCC1)=O)C | C12H19BO3
reactant | sodium carbonate | 13.51 mmol, 1432 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | 100 ml | O | H2O
solvent | DME H2O EtOH | 36 ml | COCCOC.O.CCO
catalyst | dichlorobis(triphenylphosphine)palladium(ii) | 0.450 mmol, 316 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(3-(4-(benzo[d]thiazol-2-ylamino)-3-fluorophenoxy)pyrazin-2-yl)cyclohex-2-enone | S1C(=NC2=C1C=CC=C2)NC2=C(C=C(OC=1C(=NC=CN1)C1=CC(CCC1)=O)C=C2)F | C23H17FN4O2S
